US07262206B2
(5) 1,5-diacetyl-3-[(4-chloro-phenyl)-hydroxy-methylidene]-2-indolinone
Prepared from 1,5-diacetyl-2-indolinone and 4-chlorobenzoic acid

reactant | 1,5-diacetyl-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)C(C)=O)=O | C12H11NO3
reactant | 4-chlorobenzoic acid | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
product | 1,5-diacetyl-3-[(4-chloro-phenyl)-hydroxy-methylidene]-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(C)=O)=C(O)C1=CC=C(C=C1)Cl)=O | C19H14ClNO4
